US04006170
Oxidation to give 1-aminoanthraquinone
The moist paste of 4-aminoanthrone is introduced into 300 ml of water and warmed to 60° C under nitrogen. The pH is checked every 1/4 of an hour and should lie in the range between 7.5 and 8.5. 75 ml of potassium waterglass (d = 1.25) are then added, whereupon a pH of 11 results. 375 ml of H2O2 solution are then added dropwise in the course of 2.5 hours, the solution being prepared by diluting 200 ml of 35% strength hydrogen peroxide (d = 1.135) to 1.0 liter. The mixture is warmed to 70° C and kept at this temperature for one hour. 500 ml of the azeotrope of methyl ethyl ketone (88%) and water (12%) which boils at 73.4° C, are then added and the mixture is heated to the boil for 10 hours (temperature 74° C). It is then cooled to 20° C, stirred for 1 hour at room temperature and then filtered. The residue is covered twice with 150 ml of water at a time, to remove the adhering methyl ethyl ketone. The azeotrope (boiling point 73° C) is recovered almost quantitatively from the combined filtrates by distillation. 4 g of a solid substance which contains about 50% of 1-aminoanthraquinone are isolated from the distillation residue. To remove adhering silica the moist paste of the 1-aminoanthraquinone, in 500 ml of water and 60 ml of concentrated sodium hydroxide solution (d = 1.48) must be subjected to incipient distillation for ~15 minutes. To avoid objectionable foaming during this operation, 5 drops of anti-foam agent are added. The product is filtered off hot, and the adhering sodium hydroxide solution is eluted with a little hot water. The paste weighs 140 g. It is dried at 70° C. 91 g are obtained.

reactant | 4-aminoanthrone | NC1=CC=CC=2C(C3=CC=CC=C3CC12)=O | C14H11NO
reactant | H2O2 | 375 ml | OO | H2O2
reactant | methyl ethyl ketone | C(C)C(=O)C | C4H8O
solvent | water | O | H2O
solvent | water | 300 ml | O | H2O
product | 1-aminoanthraquinone | NC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H9NO2
